US05872115
2-(N'-n-Octylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide
{2-amino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide and n-octylamine}: yield 72.1%; mp 155°-157° C. (EtOH); 1H NMR (DMSO-d6)ppm: 0.86 (3H, t), 1.25-1.83 (19H, m), 2.79 (2H, d), 3.01 (2H, dd), 3.15 (2H, t), 4.26 (1H, s), 6.91 (1H, t), 7.13-7.41 (12H, m), 7.57 (1H, d), 8.21 (1H, d), 8.58 (1H, t), 9.95 (1H, s).

reactant | 2-amino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C26H29N3O
reactant | n-octylamine | C(CCCCCCC)N | C8H19N
reactant | EtOH | CCO | C2H6O
product | 2-(N'-n-Octylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | yield 72.1% | C(CCCCCCC)NC(NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)=O | C35H46N4O2
